US05468742
10.3 g of ethyl 1-cyclopropyl-8-ethinyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate are refluxed for 4 hours in a mixture of 100 ml of glacial acetic acid, 8 ml of water and 3 ml of concentrated sulphuric acid. After cooling to room temperature, the solid is filtered off with suction, washed with water and dried. In this way, 5.7 g of 1-cyclopropyl-8-ethinyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (62% of theory) are obtained.

reactant | ethyl 1-cyclopropyl-8-ethinyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 10.3 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C#C)F)F)=O)C(=O)OCC | C17H13F2NO3
reactant | water | 8 ml | O | H2O
reactant | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-cyclopropyl-8-ethinyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 5.7 g, 62% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C#C)F)F)=O)C(=O)O | C15H9F2NO3
